US07338967B2
To a solution of 643 mg (3.10 mmol) of 2-fluoro-5-trifluoromethylbenzaldehyde oxime in 5 mL of dimethyl formamide (DMF) was added 456 mg (3.41 mmol) of N-chlorosuccinimide (see K.-C. Liu, B. R. Shelton, and R. K. Howe, J. Org. Chem. 1980, 45, 3916). The reaction mixture was stirred at room temperature overnight, and then diluted with ethyl acetate. The ethyl acetate solution was washed with saturated sodium chloride and dried over magnesium sulfate. The drying agent was filtered off, and solvent was removed by rotoevaporation to give 675 mg (2.79 mmol) of pure white crystalline 2-fluoro-5-trifluoromethyl-N-hydroxybenzene-carboximidoyl chloride.

reactant | 2-fluoro-5-trifluoromethylbenzaldehyde oxime | 3.10 mmol, 643 mg | FC1=C(C=NO)C=C(C=C1)C(F)(F)F | C8H5F4NO
reactant | N-chlorosuccinimide | 3.41 mmol, 456 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dimethyl formamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-fluoro-5-trifluoromethyl-N-hydroxybenzene-carboximidoyl chloride | 2.79 mmol, 675 mg | FC1=C(C=C(C=C1)C(F)(F)F)C(=NO)Cl | C8H4ClF4NO
